US06121271
2-Bromo-4-(2-chlorobenzoyl)-6-ethylphenol
At ambient temperature, to a stirred solution containing 4-(2-chlorobenzoyl)-2-ethylphenol (13.62 g, 52.24 mmol) and pyridine (0.25 mL, 3.23 mmol) in CH2Cl2 (870 mL) was added dropwise bromine (3.3 mL, 62.29 mmol). After 48 h, the reaction was washed with 10% aq. Na2SO4 (1×180 mL), H2O (2×350 mL), brine (1×300 mL), dried (Na2SO4) and concentrated to give 16.50 g (93%) of the title compound. 1H NMR: consistent.

reactant | 4-(2-chlorobenzoyl)-2-ethylphenol | 52.24 mmol, 13.62 g | ClC1=C(C(=O)C2=CC(=C(C=C2)O)CC)C=CC=C1 | C15H13ClO2
reactant | bromine | 62.29 mmol, 3.3 mL | BrBr | Br2
solvent | CH2Cl2 | 870 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 3.23 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
product | 2-Bromo-4-(2-chlorobenzoyl)-6-ethylphenol | 16.50 g, 93% | BrC1=C(C(=CC(=C1)C(C1=C(C=CC=C1)Cl)=O)CC)O | C15H12BrClO2
